data/mechanisms/records/IMS9-EQ9.36b.json
{"mechanism_id": "IMS9-EQ9.36b", "species": [{"species_id": "dehp_molecular_ion", "mapped_smiles": "[c:1]1([C:7](=[O+:8])[O:9][CH:10]([1H:30])[C:11]([1H:29])([CH2:12][CH3:13])[CH2:14][CH2:15][CH2:16][CH3:17])[c:2]([C:18](=[O:19])[O:20][CH2:21][CH:22]([CH2:23][CH3:24])[CH2:25][CH2:26][CH2:27][CH3:28])[cH:3][cH:4][cH:5][cH:6]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "ethylhexenyl_radical", "mapped_smiles": "[CH:10]=[C:11]([CH2:12][CH3:13])[CH2:14][CH2:15][CH2:16][CH3:17]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "protonated_monoester_mz279", "mapped_smiles": "[c:1]1([C:7](=[O:9])[O:8][1H:29])[c:2]([C:18](=[O:19])[O+:20]([1H:30])[CH2:21][CH:22]([CH2:23][CH3:24])[CH2:25][CH2:26][CH2:27][CH3:28])[cH:3][cH:4][cH:5][cH:6]1", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "ethylhexanol_neutral", "mapped_smiles": "[O:20]([1H:30])[CH2:21][CH:22]([CH2:23][CH3:24])[CH2:25][CH2:26][CH2:27][CH3:28]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "protonated_phthalic_anhydride_mz149", "mapped_smiles": "[O:9]=[C:7]1[O+:8]([1H:29])[C:18](=[O:19])[c:2]2[cH:3][cH:4][cH:5][cH:6][c:1]12", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}], "states": [{"state_id": "state_precursor", "species_ids": ["dehp_molecular_ion"]}, {"state_id": "state_mz279", "species_ids": ["protonated_monoester_mz279", "ethylhexenyl_radical"]}, {"state_id": "state_mz149", "species_ids": ["protonated_phthalic_anhydride_mz149", "ethylhexanol_neutral", "ethylhexenyl_radical"]}], "steps": [{"step_id": "step_r2H_alkyl_radical_loss", "from_state": "state_precursor", "to_state": "state_mz279", "step_class": "double_hydrogen_rearrangement", "semantics": "net_fragmentation", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [8]}, "target": {"type": "bond", "atom_maps": [8, 29]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [11, 29]}, "target": {"type": "bond", "atom_maps": [8, 29]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [11, 29]}, "target": {"type": "bond", "atom_maps": [10, 11]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [10, 30]}, "target": {"type": "bond", "atom_maps": [20, 30]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [9, 10]}, "target": {"type": "bond", "atom_maps": [10, 11]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [9, 10]}, "target": {"type": "atom", "atom_maps": [10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 8]}, "target": {"type": "bond", "atom_maps": [7, 9]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_id_alcohol_loss", "from_state": "state_mz279", "to_state": "state_mz149", "step_class": "displacement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "lone_pair", "atom_maps": [8]}, "target": {"type": "bond", "atom_maps": [8, 18]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [18, 20]}, "target": {"type": "atom", "atom_maps": [20]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_r2H", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_r2H_alkyl_radical_loss", "support_type": "textbook_proposed", "locator": {"page": 258, "equation": "9.36", "figure": null, "panel": null, "section": "9.4 Esters, 'Esters containing other functional groups' (arrow labelled 'r2H, - C8H15')"}, "confidence": 0.7, "curator_note": "The first arrow, labelled 'r2H' with '- C8H15' printed underneath. Book draws 0 arc(s) -- there is not one curved arrow anywhere in equation 9.36 -- so every electron move here is curator-supplied. WHAT THE PAGE FIXES AND WHAT IT DOES NOT: it fixes the product (drawn in full: a ring carrying COOH on one position and, on the other, C(=O)-O(+)(H)-CH2-CH(C2H5)C4H9, labelled 'm/z 279'), and it fixes the composition of the loss ('- C8H15'). Those two facts force the bookkeeping: DEHP has no O-H, the product has two (one in the COOH, one on the protonated ester oxygen), so TWO hydrogens move to the ion and the alkyl leaves as a RADICAL of composition C8H15 -- i.e. its own C8H17 minus the two donated hydrogens. Mass check, curator-computed: 390.2765 -> 279.1591 + 111.1174, exact. Note the product is EVEN-electron (the odd electron leaves with the alkyl), which is why the later steps of this equation are two-electron chemistry. WHAT IS INFERRED: which hydrogens move, and hence where the radical sits in the neutral. The page draws no structure for the C8H15 fragment at all. This record takes H29 from C11 (the branch methine) to O8 -- the six-membered ester-McLafferty geometry, which is the one arrangement here that a MOD rule independently reproduces, see the mechanism note -- and H30 from C10 to O20, the ortho ester's oxygen, which is the transfer that only an ORTHO diester can make and is exactly why phthalates give these ions. The neutral is then the vinyl-type radical .CH=C(C2H5)C4H9. A more stable isomer (allylic, or a primary radical with the double bond further along the chain) is EQUALLY CONSISTENT with the printed composition; nothing on the page decides between them. The seven moves are the full bookkeeping for a step the page compresses into one arrow, so semantics is net_fragmentation, not physical_elementary_step. SUBSTRATE: bis-(2-ethylhexyl)phthalate (DEHP), drawn as a benzene ring with two ortho -COO-CH2-CH(C2H5)-C4H9 groups and '+.' printed OUTSIDE A BRACKET at the top right. Named by the prose on the same page: 'phthalates give highly characteristic peaks at m/z 149 and 167 whose abundance ratio depends on the length of the alkyl chain. Their formation is rationalized in Equation 9.36 for bis-(2-ethylhexyl)phthalate (DEHP) which is a common and omnipresent contaminant from plasticized polymers (Ende and Spiteller 1982). The same ions are produced upon collisionally activated dissociation of protonated DEHP (Hunt et al. 1980).' C24H38O4, M+. computed 390.2765. ATOM MAPS: 1,2 = the two substituted (ortho) ring carbons, 3-6 = the ring CH; ester A (the one that loses its alkyl) = C7 carbonyl carbon, O8 carbonyl oxygen, O9 ester oxygen, alkyl C10 (the OCH2), C11 (the branch CH), C12-C13 (its ethyl), C14-C17 (its butyl); ester B = C18, O19, O20, alkyl C21-C28 in the same order; H29 and H30 are THE TWO MIGRATING HYDROGENS of the r2H step (H29 on C11, H30 on C10). LOCALIZATION, DISCLOSED: the page draws the charge and odd electron on a BRACKET, not on any atom, so a site had to be chosen to write a mapped SMILES; they are placed on O8, the carbonyl oxygen of the ester that reacts, because that is the site the drawn hydrogen transfer requires. Curator-supplied."}, {"evidence_id": "evidence_step_id", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_id_alcohol_loss", "support_type": "textbook_proposed", "locator": {"page": 258, "equation": "9.36", "figure": null, "panel": null, "section": "9.4 Esters (right branch, arrow labelled 'id, - C8H17OH')"}, "confidence": 0.65, "curator_note": "The right branch off m/z 279, and it carries a label the corpus has not seen before: 'id', printed in italics with '- C8H17OH' beneath. It is reported verbatim here and NOT silently translated. What it must mean is fixed by the two ends of the arrow: the precursor is the protonated monoester and the product is the same bicyclic protonated phthalic anhydride that the '- H2O' arrow reaches (IMS9-EQ9.36a), with the whole alcohol leaving intact. That is an intramolecular DISPLACEMENT -- the neighbouring carboxyl oxygen attacks the ester carbonyl carbon and expels the alkoxy group as the alcohol, taking the proton that was on the ester oxygen with it -- so 'i' + 'd' reads as intramolecular displacement, consistent with the book's 'd' = displacement family (rd in section 8.11, recorded in IMS8-EQ8.103 and IMS9-EQ9.29) and with the neighbouring-group participation this page's ortho geometry makes possible. That reading is INFERENCE from the drawing plus the printed loss, not a quoted definition: the book's legend for 'id' was not located. Book draws 0 arc(s); both moves are curator-supplied and mirror the -H2O step, with the alcohol replacing water as the leaving group (C8H18O, 130.1358; 279.1591 - 130.1358 = 149.0233 exactly). The arrow-check reports the expected soft lone-pair lines on atoms 8 and 20. So the page reaches m/z 149 by TWO drawn routes -- this one directly, and via m/z 167 -- which is what makes the 149/167 ABUNDANCE RATIO (the quantity the prose says varies with chain length) mechanistically meaningful. MEASUREMENTS (convention F): the page prints ONE m/z on the scheme, 'm/z 279', and it matches the computed 279.1591. The two famous product ions are NOT labelled on the drawing -- they are named in the prose ('peaks at m/z 149 and 167') -- and the computed exact masses of the drawn structures are 167.0339 (protonated phthalic acid, C8H7O4+) and 149.0233 (protonated phthalic anhydride, C8H5O3+), matching those nominal values. The neutral losses ARE printed under the arrows (- C8H15, - C8H16, - C8H17OH, - H2O) and every one closes the balance exactly: 390.2765 -> 279.1591 (-111.1174); 279.1591 -> 167.0339 (-112.1252); 279.1591 -> 149.0233 (-130.1358); 167.0339 -> 149.0233 (-18.0106). No percentage is printed anywhere, so no relative_intensity is stored, and the prose's abundance statement is a RATIO whose value depends on chain length rather than a number ('whose abundance ratio depends on the length of the alkyl chain')."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 390.2765, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_279", "species_id": "protonated_monoester_mz279", "step_id": "step_r2H_alkyl_radical_loss", "observed_mz": 279.1591, "relative_intensity": null, "hydrogen_shift": 2, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}, {"peak_id": "peak_149", "species_id": "protonated_phthalic_anhydride_mz149", "step_id": "step_id_alcohol_loss", "observed_mz": 149.0233, "relative_intensity": null, "hydrogen_shift": 1, "isotope_offset": 0, "status": "inferred", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-12T00:00:00Z", "modified_at": "2026-08-12T00:00:00Z"}}
